US06204215B1
A 0.5-liter three-neck flask equipped with a stirrer was purged with nitrogen gas, and 7.2 g (0.3mols) of sodium hydride and 250 ml of dewatered tetrahydrofuran were put thereinto in a nitrogen stream atmosphere. With stirring, the mixture was cooled to 0° C., and, while its temperature was kept cooled, 66 ml (0.3 mols) of di-n-butyl malonate was dropwise added thereto over a period of 30 minutes. After the addition, the mixture was heated up to room temperature, and 32 ml of cyclopentyl bromide was dropwise added thereto, and refluxed for 5 hours. After this was cooled to room temperature, 10 g of sodium hydride and 32 ml of cyclopentyl bromide were added thereto, and refluxed further for 8 hours. The resulting reaction mixture was washed with 200 ml of water, and subjected to distillation under reduced pressure to obtain 20 g of di-n-butyl cyclopentylmalonate. The yield was 23.5%.

reactant | sodium hydride | 0.3mols, 7.2 g | [H-].[Na+]
reactant | di-n-butyl malonate | 0.3 mols, 66 ml | C(CC(=O)OCCCC)(=O)OCCCC | C11H20O4
reactant | cyclopentyl bromide | 32 ml | C1(CCCC1)Br | C5H9Br
reactant | sodium hydride | 10 g | [H-].[Na+]
reactant | cyclopentyl bromide | 32 ml | C1(CCCC1)Br | C5H9Br
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | di-n-butyl cyclopentylmalonate | 20 g, yield was 23.5% | C1(CCCC1)C(C(=O)OCCCC)C(=O)OCCCC | C16H28O4
